US08067408B2
CDI (42.2 g, 260.4 mmol) was cautiously added to a solution of 3-bromo-5-methylbenzoic acid (16.0 g, 74.4 mmol) in EA (300 mL), and then the mixture was kept at reflux for 3 h. After cooled to room temperature, NH3 (g) was passed though for 1 h. The mixture was filtered and the organic layer was washed with HCl (10%, 100 mL) and water (100 mL). The organic phase was dried over Na2SO4 and concentrated in vacuum to obtain 15.0 g of 3-bromo-5-methylbenzamide as white crystals (yield: 94%). 1H NMR (400 MHz, CDCl3): δ 7.73-7.72 (m, 1 H), 7.56-7.55 (m, 1H), 7.50-7.49 (m 1 H), 2.39 (s, 3 H).

reactant | CDI | 260.4 mmol, 42.2 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-bromo-5-methylbenzoic acid | 74.4 mmol, 16.0 g | BrC=1C=C(C(=O)O)C=C(C1)C | C8H7BrO2
reactant | NH3 | N | H3N
solvent | EA | 300 mL | CC(OCC)=O | C4H8O2
product | 3-bromo-5-methylbenzamide | 15.0 g, yield: 94% | BrC=1C=C(C(=O)N)C=C(C1)C | C8H8BrNO
